US07935674B2
4-Bromoindoline
A solution of 4-bromoindole (881 mg) in acetonitrile (18 ml) was cooled to 0° C. under argon atmosphere, and thereto were added dropwise successively triethylsilane (2.15 ml), and boron trifluoride diethyl ether complex (1.71 ml). The mixture was stirred at the same temperature for 4 hours, and then further stirred at room temperature for 1.5 hours. To the resultant mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the organic solvent was evaporated under reduced pressure. The residual mixture was extracted with ethyl acetate (60 ml) twice, and the combined organic layer was dried over magnesium sulfate. The insoluble materials were filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:ethyl acetate=100:0-90:10) to give the titled compound (463 mg) as a yellow oil. APCI-Mass m/Z 198/200 (M+H). 1H-NMR (DMSO-d6) δ 2.90 (t, J=8.6 Hz, 2H), 3.45 (td, J=8.7, 1.4 Hz, 2H), 5.86 (br-s, 1H), 6.43 (d, J=7.7 Hz, 1H), 6.63 (d, J=7.9 Hz, 1H), 6.83 (t, J=7.9 Hz, 1H).

reactant | 4-bromoindole | 881 mg | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | triethylsilane | 2.15 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 4-Bromoindoline | 463 mg | BrC1=C2CCNC2=CC=C1 | C8H8BrN
